US07365088B2
(iii) 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-4-cyano-1H-indazole-3-carboxylic acid
The title compound was prepared analogously to example 1 (iii) with the difference that 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-3-formyl-1H-indazole-4-carbonitrile was used instead of 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-3-formyl-1H-indazole-5-carboxylic acid methyl ester and that a modified oxidation procedure described by E. Dalacanale et al. J. Org. Chem. (1986) 51, 567 employing H2O2 instead of 2-methylbutene was utilized.

reactant | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-3-formyl-1H-indazole-4-carbonitrile | ClC1=CC=C(S1)C1=CC(=NO1)CN1N=C(C=2C(=CC=CC12)C#N)C=O | C17H9ClN4O2S
reactant | H2O2 | OO | H2O2
product | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-4-cyano-1H-indazole-3-carboxylic acid | ClC1=CC=C(S1)C1=CC(=NO1)CN1N=C(C2=C(C=CC=C12)C#N)C(=O)O | C17H9ClN4O3S
